US07098222B2
2-[3-(3-Chloro-5-trifluoromethyl-pyridin-2-yl)-isoxazol-5-yl]-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline
The title compound was prepared using the procedure described in Example 1G using 1-[3-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-isoxazol-5-yl]-ethanone (Key Organics Limited/Bionet Research, catalog number 10G-001) for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.13 (d, J=6.10 Hz, 3H), 1.46 (m, 1H), 1.79 (m, 2H), 1.95 (m, 1H), 2.25 (q, J=8.59 Hz, 1H), 2.40 (m, 2H), 3.04 (m, 2H), 3.15 (m, 1H), 3.29 (td, J=8.56, 2.88 Hz, 1H), 7.69 (m, 3H), 8.10 (m, 3H), 8.27 (d, J=8.48 Hz, 1H), 8.93 (d, J=2.03 Hz, 1H); MS (DCI-NH3) [M+H]+ at 487.

reactant | 1-[3-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-isoxazol-5-yl]-ethanone | ClC=1C(=NC=C(C1)C(F)(F)F)C1=NOC(=C1)C(C)=O | C11H6ClF3N2O2
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 2-[3-(3-Chloro-5-trifluoromethyl-pyridin-2-yl)-isoxazol-5-yl]-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline | ClC=1C(=NC=C(C1)C(F)(F)F)C1=NOC(=C1)C1=NC2=CC=C(C=C2C=C1)CCN1[C@@H](CCC1)C | C25H22ClF3N4O
